US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 65 mg (0.222 mmol) of 3-(3,4-Dimethyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one, 11 mg (0.267 mmol, 60% dispersion in oil) of sodium hydride, 49.6 mg (0.267 mmol) of 2-methyl-6-bromomethyl-pyridine and 2.0 mL of N,N-dimethylformamide. The crude brown solid was purified by reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 3-(3,4-Dimethyl-benzoyl)-6-methyl-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,5]naphthyridin-4-one as an off white solid. LC-MSD, m/z for C25H23N3O2 [M+H]: 398.18 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.0 min.

reactant | 3-(3,4-Dimethyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.222 mmol, 65 mg | CC=1C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=CC1C | C18H16N2O2
reactant | sodium hydride | 0.267 mmol, 11 mg | [H-].[Na+]
reactant | 2-methyl-6-bromomethyl-pyridine | 0.267 mmol, 49.6 mg | CC1=NC(=CC=C1)CBr | C7H8BrN
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dimethyl-benzoyl)-6-methyl-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,5]naphthyridin-4-one | CC=1C=C(C(=O)C2=CN(C3=CC=C(N=C3C2=O)C)CC2=NC(=CC=C2)C)C=CC1C | C25H23N3O2
